US06194409B1
102f. {[2-{2-(S)-Carboxy-pyrrolidin-1-yl}-1-(R)-(4-methoxybenzyl)-2-oxo-ethyl]-tert.-butoxycarbonyl-amino]-acetic acid ethyl ester
0.78 g of {[2-{2-(S)-[Benzyloxy-carbonyl]-pyrrolidin-1-yl}-1-(R)-(4-methoxybenzyl)-2-oxo-ethyl]-tert.-butoxycarbonyl-amino}-acetic acid ethyl ester were dissolved in 50 mL of methanol and hydrogenated for 3 h at room temperature using 0.4 g palladium on charcoal (10%) as catalyst. Filtration followed by concentration in vacuo affords 0.58 g (89%) of the title compound as a colorless oil. (−)-APCI-MS: 477 ([M-H]−).

reactant | {[2-{2-(S)-[Benzyloxy-carbonyl]-pyrrolidin-1-yl}-1-(R)-(4-methoxybenzyl)-2-oxo-ethyl]-tert.-butoxycarbonyl-amino}-acetic acid ethyl ester | 0.78 g | C(C)OC(CN(C(=O)OC(C)(C)C)[C@@H](C(=O)N1[C@@H](CCC1)C(=O)OCC1=CC=CC=C1)CC1=CC=C(C=C1)OC)=O | C31H40N2O8
solvent | methanol | 50 mL | CO | CH4O
catalyst | palladium on charcoal | 0.4 g | [Pd] | Pd
product | {[2-{2-(S)-Carboxy-pyrrolidin-1-yl}-1-(R)-(4-methoxybenzyl)-2-oxo-ethyl]-tert.-butoxycarbonyl-amino]-acetic acid ethyl ester | 0.58 g, 89% | C(C)OC(CN(C(=O)OC(C)(C)C)[C@@H](C(=O)N1[C@@H](CCC1)C(=O)O)CC1=CC=C(C=C1)OC)=O | C24H34N2O8
